US06833378B2
To a solution of (1-hydroxymethyl-propyl)-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-amine in toluene was added diphenylphosphoryl azide and 1,8-diazbicyclo[3,4,0]undec-7-ene at 0° C. The resulting mixture was stirred at rt for 30 min, then heated 75° C. overnight. The reaction mixture was quenched with water and extracted with methylene chloride. The organic layer was separated, dried, concentrated and purified by silica gel Biotage using 1:1 methylene chloride/hexane to methylene chloride as eluent to give (1-azidomethyl-propyl)-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyrid in-4-yl]-amine as a light yellow oil. The oil was reduced with triphenylphospine to give the title compound. 1H NMR (CDCl3) d 6.86(s, 2H), 6.11(s, 1H), 4.02(d, 1H), 3.40(q, 1H), 2.84(m, 2H), 2.28(s, 3H), 2.13(s, 6H), 2.06(s, 6H), 1.61 (m, 2H), 0.98(t, 3H)ppm

reactant | (1-hydroxymethyl-propyl)-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyridin-4-yl]-amine | OCC(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C20H28N2O2
reactant | diphenylphosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (1-azidomethyl-propyl)-[3,6-dimethyl-2-(2,4,6-trimethyl-phenoxy)-pyrid in-4-yl]-amine | N(=[N+]=[N-])CC(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C)C)C | C20H27N5O
